US08808438B2
Synthesis of Distearyl Terephthalate (Compound 5)
To a 2 L Buchi reactor equipped with a double turbine agitator and distillation apparatus was charged Dimethyl terephthalate (315.8 grams), Stearyl Alcohol (879.7 grams) and heated to 130° C. under Nitrogen purge for 1 hour, after which stirring was commenced followed by the addition of Tyzor catalyst (3.0 grams, available from Dupont). The reaction mixture was then heated to 145° C., followed by slowly ramping the temperature to 190° C. over a 3-4 hour period such that the evolution of methanol is distilled in a controlled manner. The reaction temperature was maintained at 190° C. for an additional 16 hours until >96% conversion to the product was achieved as determined by 1H NMR spectroscopy. The product was discharged as a low viscosity liquid which solidified on cooling to give a 1050 gram of a white solid (96.2% yield). The product was shown to be pure by 1H NMR spectroscopy with trace amounts of the mono-ester. Physical properties of this compound are shown in Table 2.

reactant | Dimethyl terephthalate | 315.8 grams | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | Stearyl Alcohol | 879.7 grams | C(CCCCCCCCCCCCCCCCC)O | C18H38O
product | Distearyl Terephthalate | 1050 gram, 96.2% yield | C(C1=CC=C(C(=O)OCCCCCCCCCCCCCCCCCC)C=C1)(=O)OCCCCCCCCCCCCCCCCCC | C44H78O4
